US09290490B2
To a 500 mL round bottom flask was added iPrMgCl-LiCl (1.3 M in THF, 99 mL, 129 mmol) and the solution cooled in an ice bath. Thiazole (9.7 mL, 135 mmol) was then introduced at such a rate that the internal temperature did not exceed 5° C. and then the thick slurry was stirred for 1 h. 100 mL of THF was introduced and the reaction mixture cooled to −50° C. at which point ethyl 4-formylcyclohexanecarboxylate (23 g) was added as a solution in THF (100 mL) via cannula. When complete the reaction mixture was permitted to warm slowly to 5° C. where it was stirred for 30 min then quenched by the addition of water and EtOAc. The layers were separated, the organic mixture dried with MgSO4, filtered and concentrated in vacuo to afford ethyl 4-[hydroxy(1,3-thiazol-2-yl)methyl]cyclohexanecarboxylate as a 3:2 mixture of trans:cis isomers both of which are racemic mixtures. This brown oil was used directly in the subsequent step without further manipulation.

reactant | iPrMgCl LiCl | 129 mmol, 1.3 M, 99 mL | C(C)(C)[Mg]Cl.[Li+].[Cl-]
reactant | Thiazole | 135 mmol, 9.7 mL | S1C=NC=C1 | C3H3NS
reactant | ethyl 4-formylcyclohexanecarboxylate | 23 g | C(=O)C1CCC(CC1)C(=O)OCC | C10H16O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl 4-[hydroxy(1,3-thiazol-2-yl)methyl]cyclohexanecarboxylate | OC(C1CCC(CC1)C(=O)OCC)C=1SC=CN1 | C13H19NO3S
